US05888972
To a stirring solution of DMSO (1.34 g) in CH2Cl2 (10 ml) was added dropwise a solution of oxalyl chloride (1.45 g) in CH2Cl2 (5 ml) at -60° C. under nitrogen atmosphere. After five minutes, a solution of N-(tert-butoxycarbonyl)-N-methylethanolamine (1.00 g) in CH2Cl2 (5 ml) was added dropwise to the solution and the mixture was stirred at the same temperature for five minutes. To this solution was added Et3N (2.89 g) and the temperature was allowed to rise to 0° C. and the mixture was stirred at the same temperature for thirty minutes. After evaporation of the solvent, the residue was dissolved in EtOAc (50 ml) and washed with 1N aq. HCl (50 ml), water (50 ml), saturated sodium bicarbonate solution (50 ml) and brine (50 ml), successively. The organic layer was dried over anhydrous MgSO4 and concentrated in vacuo to give N-(tert-butoxycarbonyl)-N-methylaminoacetaldehyde (0.74 g) as an oil.

reactant | DMSO | 1.34 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.45 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-(tert-butoxycarbonyl)-N-methylethanolamine | 1.00 g | C(C)(C)(C)OC(=O)N(CCO)C | C8H17NO3
reactant | Et3N | 2.89 g | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(tert-butoxycarbonyl)-N-methylaminoacetaldehyde | 0.74 g | C(C)(C)(C)OC(=O)N(C)CC=O | C8H15NO3
